*****************************************************************
* NXP BSS138PW
*
* Polarity N-Channel
* Ratings 60V/1.60E+00OHMS/0.32A
*
* Date Created Tue Aug 10 21:37:37 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BSS138PW DRAIN GATE SOURCE

LD DRAIN 5 4e-10
RLD2 DRAIN 5 1.0053088
RLD1 5 4 0.0023
LG GATE 1 8.81711084834576e-10
RLG GATE 1 2.21597978160436
LS SOURCE 8 1.26727771949329e-09
RLS2 SOURCE 8 3.18501360862634
RLS1 8 7 0.0467180319746777

RDS 7 4 5454545454.54545 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.802985969070549 TC=0.00832854653037782,-1.37955612905828e-05
RBD 9 4 0.162898402931231 TC=0.00832854653037782,-1.37955612905828e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 8000000000
CGS 2 6 3.3e-11
RG 1 2 39.9470486389713

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	36
+ -10	36
+ -5	36
+ -4	36
+ -3	35
+ -2	34
+ -1	32
+ -0.5	24
+ -0.2	20
+ -0.1	18
+ 0	16.075
+ 0.1	13.36
+ 0.2	11.65
+ 0.5	8.8
+ 1	7.09
+ 2	5.8
+ 5	4.58
+ 10	3.75
+ 12	3.55
+ 20	3.02
+ 25	2.81
+ 30	2.64



.MODEL MINT NMOS(Vto=1.33000002613067 Kp=7.7742e-01 Nfs=1360000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8  Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=9000)

.MODEL DBD D(Bv=72.00 Ibv=1.00E-05 Rs=1E-6 Is=1.50076631589652e-13
+ N=1 M=0.39 VJ=0.99 Fc=0.5 Cjo=8.04e-12 Tt=1.85e-08)

.ENDS














